US06649600B1
4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-cubane-1-carboxylic acid.
To a solution of 4-(6-amino-2,4-dioxo-1,3-dipropyl-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl)-cubane-1-carboxylic acid methyl ester (400 mg, 0.966 mmol) in MeOH (20 ml) was added 4 ml of a 20% aq. NaOH solution and the resulting turbid mixture was heated at reflux overnight (12 h). The cool reaction mixture was concentrated in vacuo, diluted with several small ice chips and acidified by the dropwise addition of concentrated HCl. The resulting white precipitate was collected, dried, and washed with ether to give a white solid (280 mg, 76%). 1H NMR (400 MHz, DMSO-d6) δ 1.05 (coincident t, 6H), 1.70 (m, 2H), 1.83 (m, 2H), 3.99 (m, 2H), 4.08 (m, 2H), 4.27 (m, 3H), 4.38 (m, 3H). MS: 383 (MH+).

reactant | 4-(6-amino-2,4-dioxo-1,3-dipropyl-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl)-cubane-1-carboxylic acid methyl ester | 0.966 mmol, 400 mg | COC(=O)C12C3C4C5(C3C1C5C24)C(NC=2C(N(C(N(C2N)CCC)=O)CCC)=O)=O | C21H26N4O5
reactant | NaOH | [OH-].[Na+]
solvent | MeOH | 20 ml | CO | CH4O
product | 4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-cubane-1-carboxylic acid | 280 mg, 76% | O=C1N(C(C=2NC(=NC2N1CCC)C12C3C4C5(C(C14)C2C53)C(=O)O)=O)CCC | C20H22N4O4
